US05405989
65.7 Grams of 6-phenylhexanoyl chloride was added by drops to a mixture of 19.2 g of propargyl alcohol, 34.7 g of triethylamine and 500 ml of dry toluene with stirring and ice-cooling. After dropwise addition, the resultant solution was stirred for additional 12 hours at room temperature. The thus stirred solution was poured into ice water. The toluene layer was separated from the resulting mixture. The aqueous layer was extracted once with toluene. These toluene layers were combined, washed with water and then with an aqueous saturated sodium chloride solution, and dried over anhydrous magnesium sulfate. The solvent was distilled off from the dried layer under reduced pressure. The resulting residue was distilled under reduced pressure to obtain 157.9 g of propargyl 6-phenylhexanoate.

reactant | 6-phenylhexanoyl chloride | C1(=CC=CC=C1)CCCCCC(=O)Cl | C12H15ClO
reactant | propargyl alcohol | 19.2 g | C(C#C)O | C3H4O
reactant | triethylamine | 34.7 g | C(C)N(CC)CC | C6H15N
reactant | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | propargyl 6-phenylhexanoate | 157.9 g | C1(=CC=CC=C1)CCCCCC(=O)OCC#C | C15H18O2
